US06479531B1
Step d. 3-{[5-(Adamantan-1-yloxymethyl)-2-cyclohexyl-3-hydroxy-3H-imidazole-4-carbonyl]-amino}-benzoic Acid Benzyl Ester
A mixture of 3-[4-(adamantan-1-yloxy)-2-hydroxyimino-3-oxo-butyrylamino]-benzoic acid benzyl ester (1.16 g, 2.36 mmol), ammonium acetate (3.64 g, 47.2 mmol) and cyclohexane carboxaldehyde (0.38 ml, 3.14 mmol) in acetic acid (30 ml) was heated at 80° C. under argon for 2 h. The mixture was cooled to room temperature and concentrated to remove most of the acetic acid. The residue was dissolved in ethyl acetate (50 ml) and neutralised with sat. sodium bicarbonate. The aqueous phase was extracted with ethyl acetate (30 ml), the combined organic phases were washed with brine (50 ml), dried (MgSO4) and the solvent was evaporated. The crude product was purified by flash column chromatography (silica, DCM/MeOH 95:5) to afford yellow foam (990 mg, 72%). 1H NMR (300MHz, CDCl3) (mixture of rotamers) 13.30 and 9.12 (1H, 2×br s), 13.08 and 10.89 (1H, 2×s), 8.28 and 8.17 (1H, 2×s), 8.10-7.80 (2H, 4×d), 7.40 (6H, m), 5.38 and 5.37 (2H, 2×s), 4.97 and 4.79 (2H, 2×s), 3.27 and 2.92 (1H, 2×m), 2.20 and 2.14 (3H, 2×br s), 1.94-1.34 (22H, m).

reactant | 3-[4-(adamantan-1-yloxy)-2-hydroxyimino-3-oxo-butyrylamino]-benzoic acid benzyl ester | 2.36 mmol, 1.16 g | C(C1=CC=CC=C1)OC(C1=CC(=CC=C1)NC(C(C(COC12CC3CC(CC(C1)C3)C2)=O)=NO)=O)=O | C28H30N2O6
reactant | ammonium acetate | 47.2 mmol, 3.64 g | C(C)(=O)[O-].[NH4+]
reactant | cyclohexane carboxaldehyde | 3.14 mmol, 0.38 ml | C1(CCCCC1)C=O | C7H12O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 3-{[5-(Adamantan-1-yloxymethyl)-2-cyclohexyl-3-hydroxy-3H-imidazole-4-carbonyl]-amino}-benzoic Acid Benzyl Ester | 990 mg, 72% | C(C1=CC=CC=C1)OC(C1=CC(=CC=C1)NC(=O)C=1N(C(=NC1COC12CC3CC(CC(C1)C3)C2)C2CCCCC2)O)=O | C35H41N3O5
